PCB_Project
*SPICE Netlist generated by Advanced Sim server on 2025-03-21 12:10:28 PM
.options MixedSimGenerated

*Schematic Netlist:
CC1 TP8 NetC1_2 100uF
CC2 NetC2_1 V25 100nF
CC3 TP1 NetC3_2 22nF
CC4 TP8 NetC4_2 1nF
CC5 TP2 NetC4_2 1nF
CC6 NetC4_2 NetC6_2 1nF
CC7 NetC7_1 V25 22nF
CC8 TP7 NetC8_2 4.7nF
CC9 TP8 NetC9_2 1nF
CC10 TP3 NetC9_2 1nF
CC11 NetC9_2 NetC11_2 1nF
CC23 TP11 TP10 100uF
RR1 NetC1_2 NetC2_1 4.75K
RR2 TP1 NetC2_1 4.75K
RR3 NetC2_1 NetC3_2 4.99K
RR4 NetR4_1 V25 9.1K
RR5 TP1 NetR5_2 6.81K
RR6 NetR6_1 V25 4.7K
RR7 NetR5_2 NetR7_2 6.81K
RR8 NetR8_1 NetR8_2 6.81K
RR9 NetR8_2 TP4 6.81K
RR10 NetR10_1 V25 4.7K
RR11 TP4 NetR11_2 47.5K
RR12 NetC4_2 V25 75.0K
RR13 TP2 NetC6_2 340K
RR14 NetR14_1 V25 330K
RR15 TP2 NetC7_1 2.87K
RR16 TP7 NetC7_1 2.87K
RR17 NetC7_1 NetC8_2 3.32K
RR18 NetR18_1 V25 4.7K
RR19 TP7 NetR19_2 6.81K
RR20 NetR20_1 V25 4.7K
RR21 NetR19_2 NetR21_2 6.81K
RR22 NetR22_1 NetR22_2 6.81K
RR23 NetR23_1 V25 4.7K
RR24 NetR22_2 TP5 6.81K
RR25 TP5 NetR11_2 47.5K
RR26 NetC9_2 V25 267K
RR27 TP3 NetC11_2 2000K
RR28 NetR28_1 V25 47K
RR29 TP3 NetR29_2 6.81K
RR30 NetR30_1 V25 4.7K
RR31 NetR29_2 NetR31_2 6.81K
RR32 NetR32_1 NetR32_2 6.81K
RR33 NetR33_1 V25 4.7K
RR34 NetR32_2 TP6 6.81K
RR35 TP6 NetR11_2 47.5K
RR36 NetR11_2 TP11 47.5K
RR37 NetR37_1 V25 13K
RR38 V25 TP10 10K
RRV1AA NetR7_2 NetRV1A_3 {20K * 0.5}
RRV1AB NetRV1A_3 NetR8_1 {20K - (20K * 0.5)}
RRV2AA NetR21_2 NetRV2A_3 {20K * 0.5}
RRV2AB NetRV2A_3 NetR22_1 {20K - (20K * 0.5)}
RRV3AA NetR31_2 NetRV3A_3 {20K * 0.5}
RRV3AB NetRV3A_3 NetR32_1 {20K - (20K * 0.5)}
XU1 NetR4_1 NetC3_2 TP1 ideal
XU2 NetR6_1 NetR5_2 NetRV1A_3 ideal
XU3 NetR10_1 NetR8_2 TP4 ideal
XU4 NetR14_1 NetC6_2 TP2 ideal
XU5 NetR18_1 NetC8_2 TP7 ideal
XU6 NetR20_1 NetR19_2 NetRV2A_3 ideal
XU7 NetR23_1 NetR22_2 TP5 ideal
XU8 NetR28_1 NetC11_2 TP3 ideal
XU9 NetR30_1 NetR29_2 NetRV3A_3 ideal
XU10 NetR33_1 NetR32_2 TP6 ideal
XU11 NetR37_1 NetR11_2 TP11 ideal
VV25 V25 0 2.5 AC 0 0
VVentree TP8 0 DC 2.5 SIN(0 1 1Meg 0 0 0) AC 1 0

.PROBE {V(TP7)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(TP3)} =PLOT(1) =AXIS(1) =UNITS(V)
.PROBE {V(TP1)} =PLOT(1) =AXIS(1) =UNITS(V)

*Selected Circuit Analyses:
.AC DEC 10 1 1Meg

*Cached Models and Subcircuits:
.SUBCKT IDEAL 1 2 3
EGAIN 3 0 1 2 1E5
.ENDS

.END